US04001426
When 2-p-methoxyphenylbenzothiophene was acylated with 3,5-dimethylbenzoyl chloride as described in the procedure of Example 1, 3-(3',5'-dimethylbenzoyl)-2-(4'-methoxyphenyl)benzothiophene was obtained.

reactant | 2-p-methoxyphenylbenzothiophene | COC1=CC=C(C=C1)C=1SC2=C(C1)C=CC=C2 | C15H12OS
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
product | 3-(3',5'-dimethylbenzoyl)-2-(4'-methoxyphenyl)benzothiophene | CC=1C=C(C(=O)C2=C(SC3=C2C=CC=C3)C3=CC=C(C=C3)OC)C=C(C1)C | C24H20O2S
